US04150139
To 3 ml of 80% phosphoric acid was added 0.245 g of 3-methylsulfinyl-11H-s-triazolo[3,4-b][3]benzazepine and the mixture was heated on an oil bath at 130°-140° C. for 1 hour. Following addition of water, the crystals were collected by filtration and dried. By the above procedure was obtained 2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one. Recrystallization from chloroform-methanol yielded colorless needles, m.p. 210°-211° C.

reactant | phosphoric acid | 3 ml | P(O)(O)(O)=O | H3O4P
reactant | 3-methylsulfinyl-11H-s-triazolo[3,4-b][3]benzazepine | 0.245 g | CS(=O)C1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3OS
solvent | water | O | H2O
product | 2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one | N=1NC(N2C1CC1=C(C=C2)C=CC=C1)=O | C11H9N3O
